US08563575B2
The mixture of sodium 2-methylpropan-2-olate (0.16 g), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.054 g), tert-butyl (2-chloro-4-methylpyridin-3-yl)carbamate (0.28 g), 4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]aniline (0.41 g) and Pd2(dba)3 (0.043 g) in toluene (40 mL) and 2-propanol (10 mL) was stirred at 100° C. under N2 overnight. After cooling to room temperature, the reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give 7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (0.21 g) as white crystals.

reactant | sodium 2-methylpropan-2-olate | 0.16 g | CC(C)(C)[O-].[Na+]
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.054 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | tert-butyl (2-chloro-4-methylpyridin-3-yl)carbamate | 0.28 g | ClC1=NC=CC(=C1NC(OC(C)(C)C)=O)C | C11H15ClN2O2
reactant | 4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]aniline | 0.41 g | C[Si](CCOCN1C(=NC2=C1C=CC=C2)OC2=CC=C(N)C=C2)(C)C | C19H25N3O2Si
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | 2-propanol | 10 mL | CC(C)O | C3H8O
catalyst | Pd2(dba)3 | 0.043 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-methyl-3-{4-[(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-benzimidazol-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 0.21 g | CC1=C2C(=NC=C1)N(C(N2)=O)C2=CC=C(C=C2)OC2=NC1=C(N2COCC[Si](C)(C)C)C=CC=C1 | C26H29N5O3Si
